US05739129
2-[2,4-Dioxo-3-(3-phenyl-ureido)-5-pyridin-2-yl-2,3,4,5-tetrahydrobenzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide
A solution of phenyl isocyanate (25.6 mg) in methylene chloride (1 ml) was added to a solution of 2-(3-Amino-2,4-dioxo-5-pyrdin-2-yl-2,3,4,5-tetrahydrobenzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide (100 mg) in methylene chloride (1 ml) and the resultant mixture was stirred at rt for 4 h. The solvents were removed in vacuo and the residue was recrystalised from ethyl acetate to afford the title product (44 mg) as an off-white solid. 1H NMR (300 MHz, CDCl3); 1.03 (2×d, J=7 Hz, 6H), 3.81 (s, 3H), 4.17 (d J=16 Hz, 1H), 4.37 (d, J=16 Hz, 1H), 5.0 (sept, J=7.1 Hz, 1H), 5.40 (d, J=6.3 Hz, 1H), 6.40 (d, J=5.3 Hz, 1H), 6.8-7.3 (m, 17H), 7.80 (br, 1H), 8.42 (d, J=3.9 Hz, 1H).Tlc (10% MeOH, CH2Cl2) Rf=0.53. m/z [MH]+ =593.

reactant | phenyl isocyanate | 25.6 mg | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 2-(3-Amino-2,4-dioxo-5-pyrdin-2-yl-2,3,4,5-tetrahydrobenzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 100 mg | NC1C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=NC=CC=C2)=O | C26H27N5O4
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | 2-[2,4-Dioxo-3-(3-phenyl-ureido)-5-pyridin-2-yl-2,3,4,5-tetrahydrobenzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 44 mg | O=C1C(C(N(C2=C(N1CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=NC=CC=C2)=O)NC(=O)NC2=CC=CC=C2 | C33H32N6O5
